US04150129
The starting material is prepared as follows: The solution of 27.2 g of 3-acetonyl-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone, 31 g of ethylene glycol and 0.2 g of p-toluenesulfonic acid hydrate in 200 ml of benzene is refluxed with a water separator for 7 hours. It is cooled to 0°, 100 ml of 5% aqueous sodium bicarbonate are added and the benzene layer separated. It is washed with water, dried, evaporated and the residue crystallized from diethyl ether to give the 3-(2-ethylenedioxypropyl)-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone melting at 132°-134°.

reactant | 3-acetonyl-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | 27.2 g | C(C(=O)C)C=1C(NCCCC1C1=CC(=CC=C1)OC)=O | C16H19NO3
reactant | ethylene glycol | 31 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid hydrate | 0.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 3-(2-ethylenedioxypropyl)-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | C1OC(CC=2C(NCCCC2C2=CC(=CC=C2)OC)=O)COC1 | C18H23NO4
